US04546101
Trifluoroacetic acid (15.2 ml) was added to a suspension of benzhydryl 7-amino-3-[2-(3-pyridyl)vinyl]-3-cephem-4-carboxylate (cis-trans mixture) (8.0 g) and anisole (7.4 ml) in dichloromethane (40 ml) at ambient temperature and the mixture was stirred for 1.5 hours at the same temperature. To the resulting solution was added diisopropyl ether (200 ml) and stirred. The precipitate was collected by filtration and washed with diisopropyl ether. The precipitate was added to a mixture of water and ethyl acetate and the mixture was adjusted to pH 7 with 20% potassium carbonate. The separated aqueous layer was adjusted to pH 4.5 with 10% hydrochloric acid under ice-cooling. The precipitate, whose main component was the desired trans isomer, was filtered off and added to water. The mixture was adjusted to pH 7.0 with saturated aqueous sodium bicarbonate. After removal of an insoluble substance, the aqueous filtrate was adjusted to pH 4.5 with 10% hydrochloric acid under ice-cooling. The resulting precipitate was filtered, washed with ice-cooled water and dried over phosphorus pentoxide in vacuo to give 7-amino-3-[2-(3-pyridyl)vinyl]-3-cephem-4-carboxylic acid (trans isomer) (1.9 g.).

reactant | Trifluoroacetic acid | 15.2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | benzhydryl 7-amino-3-[2-(3-pyridyl)vinyl]-3-cephem-4-carboxylate | 8.0 g | NC1[C@@H]2N(C(=C(CS2)C=CC=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H23N3O3S
reactant | anisole | 7.4 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | diisopropyl ether | 200 ml | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 7-amino-3-[2-(3-pyridyl)vinyl]-3-cephem-4-carboxylic acid | 1.9 g | NC1[C@@H]2N(C(=C(CS2)C=CC=2C=NC=CC2)C(=O)O)C1=O | C14H13N3O3S
